US05334716
A mixture of ethyl 4-[1-(4-hydroxybenzoyl)indolizin-3-yl]butyrate (334 mg), bis(4-isobutylphenyl)chloromethane (599 mg) and potassium carbonate (394 mg) in N,N-dimethylformamide (5 ml) was stirred at room temperature for 20 hours. The reaction mixture was filtered and the filtrate was poured into a mixture of ethyl acetate and 0.5N hydrochloric acid. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel eluting with n-hexane and ethyl acetate (3:1) to give ethyl 4-[1-[4-[bis(4-isobutylphenyl)methoxy]benzoyl]indolizin-3-yl]butyrate (95 mg) as an oil.

reactant | ethyl 4-[1-(4-hydroxybenzoyl)indolizin-3-yl]butyrate | 334 mg | OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1 | C21H21NO4
reactant | bis(4-isobutylphenyl)chloromethane | 599 mg | C(C(C)C)C1=CC=C(C=C1)C(Cl)C1=CC=C(C=C1)CC(C)C | C21H27Cl
reactant | potassium carbonate | 394 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[1-[4-[bis(4-isobutylphenyl)methoxy]benzoyl]indolizin-3-yl]butyrate | 95 mg | C(C(C)C)C1=CC=C(C=C1)C(OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1)C1=CC=C(C=C1)CC(C)C | C42H47NO4
